US03985889
Reaction of 1,3-dihydro-5,6-dimethoxyspiro[isobenzofuran-1,4'-piperidine]-3-one and α-chloro-p-fluorobutyrophenone ethylene ketal by the method described in Example 6 provides 1,3-dihydro-5,6-dimethoxy-1'-[3-(4-fluorobenzoyl)propyl]spiro[isobenzofuran-1,4'-piperidine]-3-one.

reactant | 1,3-dihydro-5,6-dimethoxyspiro[isobenzofuran-1,4'-piperidine]-3-one | COC=1C=C2C(OC3(CCNCC3)C2=CC1OC)=O | C14H17NO4
reactant | α-chloro-p-fluorobutyrophenone ethylene ketal | C1COC(C(CC)Cl)(C2=CC=C(C=C2)F)O1 | C12H14ClFO2
product | 1,3-dihydro-5,6-dimethoxy-1'-[3-(4-fluorobenzoyl)propyl]spiro[isobenzofuran-1,4'-piperidine]-3-one | COC=1C=C2C(OC3(CCN(CC3)CCCC(C3=CC=C(C=C3)F)=O)C2=CC1OC)=O | C24H26FNO5
